US08609647B2
(10) Optically-Active Compound of 1,7-diazaspiro[4.5]decane-1-carboxylic acid tert-butyl ester
To a solution of 7-benzyl-6-oxo-1,7-diazaspiro[4.5]decane-1-carboxylic acid tert-butyl ester (76 mg) in tetrahydrofuran/methanol (1 ml/1 ml) was added 20% palladium hydroxide carbon (15 mg), and the mixture was hydrogenated under 4 atmospheres. The mixture was filtered through Celite under nitrogen, and the filtrate was concentrated under reduced pressure to give the titled compound (51 mg).

reactant | 7-benzyl-6-oxo-1,7-diazaspiro[4.5]decane-1-carboxylic acid tert-butyl ester | 76 mg | C(C)(C)(C)OC(=O)N1CCCC12C(N(CCC2)CC2=CC=CC=C2)=O | C20H28N2O3
solvent | tetrahydrofuran methanol | 1 ml | O1CCCC1.CO
catalyst | palladium hydroxide carbon | 15 mg | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
product | 1,7-diazaspiro[4.5]decane-1-carboxylic acid tert-butyl ester | 51 mg | C(C)(C)(C)OC(=O)N1CCCC12CNCCC2 | C13H24N2O2
